US05348976
Synthesis of N1 -[1-(5-fluorobenzo[b]thiophen-2-yl)ethyl]-N2 -isopropoxycarbonyl-L-valinamide (Compound No. 192)
5.1 g of N-methylpiperidine was added to a solution containing 10.4 g of N-isopropoxycarbonyl-L-valine dissolved in 200 ml of dichloromethane, at -20° C. and then 7.0 g of isobutyl chloroformate was added dropwise to the mixture. After the mixture was stirred at -20° C. for 10 minutes, 10.0 g of 1-(5-fluorobenzo[b]thiophen-2-yl)ethylamine was added to the mixture at -50° C. After stirring at the same temperature, the mixture was allowed to sit and warm naturally to room temperature and then stirred for 15 hours at room temperature. After the reaction mixture was washed successively with 10% hydrochloric acid, a saturated aqueous solution of sodium bicarbonate, and water, the organic layer was then dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel, thus obtaining 12.3 g of the desired product in the form of a white powder.

reactant | N-methylpiperidine | 5.1 g | CN1CCCCC1 | C6H13N
reactant | N-isopropoxycarbonyl-L-valine | 10.4 g | C(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)O | C9H17NO4
reactant | isobutyl chloroformate | 7.0 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1-(5-fluorobenzo[b]thiophen-2-yl)ethylamine | 10.0 g | FC1=CC2=C(SC(=C2)C(C)N)C=C1 | C10H10FNS
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N1 -[1-(5-fluorobenzo[b]thiophen-2-yl)ethyl]-N2 -isopropoxycarbonyl-L-valinamide | 12.3 g | FC1=CC2=C(SC(=C2)C(C)NC([C@@H](NC(=O)OC(C)C)C(C)C)=O)C=C1 | C19H25FN2O3S
